US06720423B2
O-Tolylboronic Acid (Intermediate 65)
Following General Procedure A and using 2-bromotoluene (2 g, 7.8 mmol), 20 mL of anhydrous tetrahydrofuran, 1.7M solution of t-butyllithium in n-pentane (14 mL, 15.5 mmol) and trimethyl borate (2.6 mL, 15.5 mmol), the title compound was obtained after recrystallization from ethyl acetate-hexane mixture (0.8 g, 51%).

reactant | 2-bromotoluene | 7.8 mmol, 2 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | n-pentane | 15.5 mmol, 14 mL | CCCCC | C5H12
reactant | trimethyl borate | 15.5 mmol, 2.6 mL | B(OC)(OC)OC | C3H9BO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | O-Tolylboronic Acid | C1(=C(C=CC=C1)OBO)C | C7H9BO2
